US04897379
Sodium cyanoborohydride(1.9 g) was added portionwise to a stirred mixture of cyclopentanone(2.1 g), glycine tert-butyl ester hydrochloride(5.0 g), water(12 ml) and methanol(25 ml) during 15 min at water-bath temperature. The resulting mixture was stirred for 4 hr, diluted with 20% H3PO4 (40 ml) and water(20 ml), and extracted with ether(80 ml). The aqueous layer was made alkaline(pH 10) with 20% NaOH and extracted with CHCl3 (50 ml). The extract was dried(Na2SO4) and concentrated in vacuo to give an oily residue, which was purified by silica gel column chromatography(ethyl acetate:hexane=3:1) to yield N-cyclopentylglycine tert-butyl ester(4.5 g) as a pale yellow oil.

reactant | Sodium cyanoborohydride | 1.9 g | C(#N)[BH3-].[Na+]
reactant | cyclopentanone | 2.1 g | C1(CCCC1)=O | C5H8O
reactant | glycine tert-butyl ester hydrochloride | 5.0 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | methanol | 25 ml | CO | CH4O
solvent | H3PO4 | 40 ml | OP(=O)(O)O | H3O4P
solvent | water | 20 ml | O | H2O
solvent | water | 12 ml | O | H2O
product | N-cyclopentylglycine tert-butyl ester | 4.5 g | C(C)(C)(C)OC(CNC1CCCC1)=O | C11H21NO2
